US05294734
1.75 g (3.6 mmol) of benzyl 6-acetoxy-2-formylamino-4-diisopropylphosphonomethyl-hex-3-enoate are dissolved in 15 ml of CH2Cl2. Then 1.88 ml (14.5 mmol) of trimethylbromosilane are added to this solution at room temperature. The reaction mixture is allowed to stand for 24 hours at room temperature. After addition of 15 ml of benzyl alcohol the reaction mixture is allowed to stand for 48 hours at room temperature and then concentrated by evaporation at 70° C. under a high vacuum. The residue is dissolved in 15 ml of ethanol and then a mixture of 15 ml of propylene oxide and 15 ml of ethanol is added dropwise to this solution. The suspension so obtained is stirred for 30 minutes in an ice bath and then filtered with suction. The crystals so obtained are recrystallised hot from ethanol/water and dried, giving white crystals of benzyl 6-acetoxy-2-amino-4-phosphonomethyl-hex-3-enoate. Melting point: 204°-205° C. (decomp.).

reactant | benzyl 6-acetoxy-2-formylamino-4-diisopropylphosphonomethyl-hex-3-enoate | 3.6 mmol, 1.75 g | C(C)(=O)OCCC(=CC(C(=O)OCC1=CC=CC=C1)NC=O)CP(=O)(OC(C)C)OC(C)C | C23H34NO8P
reactant | trimethylbromosilane | 14.5 mmol, 1.88 ml | C[Si](Br)(C)C | C3H9BrSi
reactant | benzyl alcohol | 15 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | benzyl 6-acetoxy-2-amino-4-phosphonomethyl-hex-3-enoate | C(C)(=O)OCCC(=CC(C(=O)OCC1=CC=CC=C1)N)CP(=O)(O)O | C16H22NO7P
